US04343811
2-[3-(4-Chloro-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid amylester
The above compound was prepared from 3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-ol and 2-bromo-2-methyl-propanoic acid amylester using a procedure analogous to that of Example 102.

reactant | 3-(4-chlorophenyl)-1,2-dimethyl-1H-indole-5-ol | ClC1=CC=C(C=C1)C1=C(N(C2=CC=C(C=C12)O)C)C | C16H14ClNO
reactant | 2-bromo-2-methyl-propanoic acid amylester | C(CCCC)OC(C(C)(C)Br)=O | C9H17BrO2
product | 2-[3-(4-Chloro-phenyl)-1,2-dimethyl-1H-indole-5-yloxy]-2-methyl-propanoic acid amylester | C(CCCC)OC(C(C)(C)OC=1C=C2C(=C(N(C2=CC1)C)C)C1=CC=C(C=C1)Cl)=O | C25H30ClNO3
